US08703758B2
D) tert-butyl [(1S)-2-({1-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate
To a solution of tert-butyl [(1S)-2-{[1-(5-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate (345 mg) in DMF (5 mL) were added potassium carbonate (366 mg) and (bromomethyl)cyclopropane (0.171 mL), and the mixture was stirred with heating at 60° C. for 1.5 hr under a nitrogen atmosphere. The reaction mixture was allowed to cool to room temperature, diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (375 mg).

reactant | tert-butyl [(1S)-2-{[1-(5-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 345 mg | OC=1C=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C20H29N3O5
reactant | potassium carbonate | 366 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclopropane | 0.171 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1S)-2-({1-[5-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 375 mg | C1(CC1)COC=1C=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C24H35N3O5
